CIRCUIT C:\Users\schuh\Desktop\f2.MSK
*
* IC Technology: K-CMOS Free-PDK-Based 45nm - 6 Metal
*
VDD 1 0 DC 1.00
V2_vdd 2 0 DC 0.20V
Va 22 0 DC 0 PULSE(0.00 1.00 0.23N 0.03N 0.03N 0.23N 0.50N)
Vb 23 0 DC 0 PULSE(0.00 1.00 0.48N 0.03N 0.03N 0.48N 1.00N)
Vc 24 0 DC 0 PULSE(0.00 1.00 0.98N 0.03N 0.03N 0.97N 2.00N)
Vnot b 25 0 DC 0 PULSE(0.00 1.00 3.98N 0.03N 0.03N 3.98N 8.00N)
Vnot a 26 0 DC 0 PULSE(0.00 1.00 1.97N 0.03N 0.03N 1.97N 4.00N)
Vnot c 27 0 DC 0 PULSE(0.00 1.00 7.98N 0.03N 0.03N 7.97N 16.00N)
*
* List of nodes
* "N3" corresponds to n°3
* "N4" corresponds to n°4
* "out f2" corresponds to n°5
* "N6" corresponds to n°6
* "N7" corresponds to n°7
* "N8" corresponds to n°8
* "N9" corresponds to n°9
* "gnd" corresponds to n°18
* "a" corresponds to n°22
* "b" corresponds to n°23
* "c" corresponds to n°24
* "not b" corresponds to n°25
* "not a" corresponds to n°26
* "not c" corresponds to n°27
*
* MOS devices
MN1 15 24 5 0 N1  W= 0.40U L= 0.05U
MN2 5 26 15 0 N1  W= 0.40U L= 0.05U
MN3 15 25 5 0 N1  W= 0.40U L= 0.05U
MN4 16 27 15 0 N1  W= 0.40U L= 0.05U
MN5 15 26 16 0 N1  W= 0.40U L= 0.05U
MN6 16 23 15 0 N1  W= 0.40U L= 0.05U
MN7 17 22 16 0 N1  W= 0.40U L= 0.05U
MN8 16 25 17 0 N1  W= 0.40U L= 0.05U
MN9 17 27 16 0 N1  W= 0.40U L= 0.05U
MN10 0 24 17 0 N1  W= 0.40U L= 0.05U
MN11 17 23 0 0 N1  W= 0.40U L= 0.05U
MN12 0 22 17 0 N1  W= 0.40U L= 0.05U
MN13 0 24 19 0 N1  W= 0.10U L= 0.05U
MN14 0 23 20 0 N1  W= 0.10U L= 0.05U
MN15 0 22 21 0 N1  W= 0.10U L= 0.05U
MP1 3 24 2 2 P1  W= 0.43U L= 0.05U
MP2 4 26 3 2 P1  W= 0.43U L= 0.05U
MP3 5 25 4 2 P1  W= 0.43U L= 0.05U
MP4 6 27 5 2 P1  W= 0.43U L= 0.05U
MP5 7 26 6 2 P1  W= 0.43U L= 0.05U
MP6 2 23 7 2 P1  W= 0.43U L= 0.05U
MP7 8 22 2 2 P1  W= 0.43U L= 0.05U
MP8 9 25 8 2 P1  W= 0.43U L= 0.05U
MP9 5 27 9 2 P1  W= 0.43U L= 0.05U
MP10 10 24 5 2 P1  W= 0.43U L= 0.05U
MP11 11 23 10 2 P1  W= 0.43U L= 0.05U
MP12 2 22 11 2 P1  W= 0.43U L= 0.05U
MP13 2 24 12 2 P1  W= 0.15U L= 0.05U
MP14 2 23 13 2 P1  W= 0.15U L= 0.05U
MP15 2 22 14 2 P1  W= 0.15U L= 0.05U
*
C2 2 0  1.039fF
C3 3 0  0.082fF
C4 4 0  0.082fF
C5 5 0  0.405fF
C6 6 0  0.082fF
C7 7 0  0.082fF
C8 8 0  0.082fF
C9 9 0  0.082fF
C10 10 0  0.082fF
C11 11 0  0.088fF
C12 12 0  0.034fF
C13 13 0  0.034fF
C14 14 0  0.034fF
C15 15 0  0.282fF
C16 16 0  0.276fF
C17 17 0  0.273fF
C19 19 0  0.027fF
C20 20 0  0.027fF
C21 21 0  0.027fF
C22 22 0  0.173fF
C23 23 0  0.176fF
C24 24 0  0.193fF
C25 25 0  0.157fF
C26 26 0  0.167fF
C27 27 0  0.147fF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 2.00N
print  V(2) V(5) V(22) V(23) V(18) V(26) V(25) V(27) > out.txt
plot  V(2) V(5) V(22) V(23) V(18) V(26) V(25) V(27)
.endc
.END
