CIRCUIT C:\Users\schuh\Desktop\f3.MSK
*
* IC Technology: K-CMOS Free-PDK-Based 45nm - 6 Metal
*
VDD 1 0 DC 1.00
Va 7 0 DC 0 PULSE(0.00 1.00 0.23N 0.03N 0.03N 0.23N 0.50N)
Vb 8 0 DC 0 PULSE(0.00 1.00 0.48N 0.03N 0.03N 0.48N 1.00N)
*
* List of nodes
* "out f3" corresponds to n°3
* "N4" corresponds to n°4
* "N5" corresponds to n°5
* "gnd" corresponds to n°6
* "a" corresponds to n°7
* "b" corresponds to n°8
*
* MOS devices
MN1 0 4 3 0 N1  W= 0.10U L= 0.05U
MN2 0 8 4 0 N1  W= 0.10U L= 0.05U
MN3 4 7 0 0 N1  W= 0.10U L= 0.05U
MP1 1 4 3 1 P1  W= 0.10U L= 0.05U
MP2 5 8 4 1 P1  W= 0.25U L= 0.05U
MP3 1 7 5 1 P1  W= 0.25U L= 0.05U
*
C2 1 0  0.265fF
C3 3 0  0.075fF
C4 4 0  0.157fF
C5 5 0  0.056fF
C7 7 0  0.024fF
C8 8 0  0.027fF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 5.00N
print  V(7) V(8) V(6) V(3) > out.txt
plot  V(7) V(8) V(6) V(3)
.endc
.END
